US05585394
A) Methyl 4-[5-ethoxy-2,3-dihydro-3-(2-methoxy-1,1-dimethylethyl)-2-oxo-1H-benzimidazol-1-yl]sulfonyl-3-methoxybenzoate
0.12 g of sodium hydride as a 60% dispersion in oil is added in portions to a mixture of 1 g of 5- ethoxy-1,3-dihydro-3-(2-methoxy-1,1-dimethylethyl)-2H-benzimidazol-2-one and 30 ml of THF and the mixture is stirred for 30 minutes at RT. 1.2 g of 4-methoxycarbonyl-2-methoxybenzenesulfonyl chloride are then added and the mixture is stirred for 2 hours at RT. It is concentrated under vacuum, the residue is extracted with AcOEt, washed with water and dried over Na2SO4 and the solvent is evaporated off under vacuum. The residue is chromatographed on silica using a DCM/AcOEt mixture (98/2; v/v) as the eluent to give 1.7 g of the expected product, which is used as such in the next step.

reactant | sodium hydride | 0.12 g | [H-].[Na+]
reactant | 5- ethoxy-1,3-dihydro-3-(2-methoxy-1,1-dimethylethyl)-2H-benzimidazol-2-one | 1 g | C(C)OC1=CC2=C(NC(N2C(COC)(C)C)=O)C=C1 | C14H20N2O3
reactant | 4-methoxycarbonyl-2-methoxybenzenesulfonyl chloride | 1.2 g | COC(=O)C1=CC(=C(C=C1)S(=O)(=O)Cl)OC | C9H9ClO5S
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | Methyl 4-[5-ethoxy-2,3-dihydro-3-(2-methoxy-1,1-dimethylethyl)-2-oxo-1H-benzimidazol-1-yl]sulfonyl-3-methoxybenzoate | 1.7 g | C(C)OC1=CC2=C(N(C(N2C(COC)(C)C)=O)S(=O)(=O)C2=C(C=C(C(=O)OC)C=C2)OC)C=C1 | C23H28N2O8S
